US08133886B2
Step 3.2: 6-Trimethylsilanylethynyl-naphthalene-1-carboxylic acid methyl ester
A solution of 15.6 ml (113 mMol) ethynyl-trimethylsilane (Fluka; Buchs/Switzerland) and 15.7 ml (113 mMol) Et3N in 250 ml degassed DMF is added to 34 g (102 mMol) 6-trifluoromethanesulfonyloxy-naphthalene-1-carboxylic acid methyl ester, 1.0 g (5.2 mMol) CuI and 5.0 g (7.1 mMol) Pd(PPh3)2Cl2 in 250 ml of degassed DMF. After 15 h at rt, the mixture is concentrated partially in vacuo at 40° C. and the residue re-dissolved in sat. NaHCO3 solution and EtOAc. The aq. phase is separated off and extracted twice with EtOAc. The organic layer is washed twice with sat. NaHCO3 solution, water/sat. NaHCO3 solution 1:1 and brine, dried (Na2SO4) and concentrated. Column chromatography (SiO2; hexane/EtOAc 199:1) gives the title compound as an oil: MS: [M+1]+=283; TLC(hexane/EtOAc 19:1): Rf=0.22.

reactant | ethynyl-trimethylsilane | 113 mMol, 15.6 ml | C(#C)[Si](C)(C)C | C5H10Si
reactant | Et3N | 113 mMol, 15.7 ml | CCN(CC)CC | C6H15N
reactant | 6-trifluoromethanesulfonyloxy-naphthalene-1-carboxylic acid methyl ester | 102 mMol, 34 g | COC(=O)C1=CC=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F | C13H9F3O5S
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
catalyst | CuI | 5.2 mMol, 1.0 g | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 7.1 mMol, 5.0 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-Trimethylsilanylethynyl-naphthalene-1-carboxylic acid methyl ester | COC(=O)C1=CC=CC2=CC(=CC=C12)C#C[Si](C)(C)C | C17H18O2Si
